US07598264B2
To a solution of sodium azide (0.24 g, 3.69 mmol) in water (2.5 mL) was added 6-(4-fluorobenzyl)-4-methoxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carbonyl chloride (1.17 g, 3.36 mmol) in acetone (15 mL). After 20 minutes, the product mixture was concentrated under vacuum to provide 6-(4-fluorobenzyl)-4-methoxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carbonyl azide. The crude azide (1.19 g, 3.35 mmol) in DMF (20 mL) was heated to 110° C. After 20 minutes, the product mixture was cooled for 10 minutes, then 1N NaOH (3.3 mL) was added. After 20 minutes, the mixture was concentrated under vacuum, re-dissolved in toluene and CHCl3 and evaporated. The residue was partitioned between CHCl3 and saturated sodium bicarbonate. The organic extract was dried with Na2SO4, filtered, and concentrated under vacuum to provide the title compound.

reactant | sodium azide | 3.69 mmol, 0.24 g | [N-]=[N+]=[N-].[Na+]
reactant | 6-(4-fluorobenzyl)-4-methoxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carbonyl chloride | 3.36 mmol, 1.17 g | FC1=CC=C(CN2C(C=3C(=CN=C(C3CC2)C(=O)Cl)OC)=O)C=C1 | C17H14ClFN2O3
solvent | water | 2.5 mL | O | H2O
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | 6-(4-fluorobenzyl)-4-methoxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carbonyl azide | FC1=CC=C(CN2C(C=3C(=CN=C(C3CC2)C(=O)N=[N+]=[N-])OC)=O)C=C1 | C17H14FN5O3
